US04970213
A suspension of 26.7 g of ethyl 3-(2-chloro-6,7,8-trifluoro-3-quinolyl)-3-oxopropionate in 270 cm3 of ethyl acetate and 32 cm3 of N,N-dimethylformamide dimethyl acetal is heated at a temperature close to 75° C., with stirring, for 2 hours. The reaction mixture is concentrated to dryness under reduced pressure (20 kPa) at about 50° C. The dry extract is taken up in 175 cm3 of diisopropyl ether, drained and washed with twice 85 cm3 of the same solvent. 19.32 g of ethyl 2-(2-chloro-6,7,8-trifluoro quinoline-3-carbonyl)-3-dimethylaminoacrylate are obtained in the form of an orange solid melting at 118° C., which is used for the subsequent steps without further purification.

reactant | ethyl 3-(2-chloro-6,7,8-trifluoro-3-quinolyl)-3-oxopropionate | 26.7 g | ClC1=NC2=C(C(=C(C=C2C=C1C(CC(=O)OCC)=O)F)F)F | C14H9ClF3NO3
reactant | N,N-dimethylformamide dimethyl acetal | 32 cm3 | COC(N(C)C)OC | C5H13NO2
solvent | ethyl acetate | 270 cm3 | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-chloro-6,7,8-trifluoro quinoline-3-carbonyl)-3-dimethylaminoacrylate | 19.32 g | ClC1=NC2=C(C(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)F)F | C17H14ClF3N2O3
